US08071766B2
Step D. Synthesis of (R,Z)-2-amino-7-(4-fluoro-2(6-methoxypyridine-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-one oxime (Compound 61)
(7R)-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-5-(tetrahydro-2H-pyran-2-yloxyamino)-7,8-dihydropyrido[4,3-d]pyrimidin-2-amine (0.891 g, 1.86 mmol) was dissolved in 10 mL of dioxane. 4M of HCl in dioxane (1.86 mL, 7.45 mmol) was then added slowly to the above stirred solution. After all the HCl was added, a yellow solid was formed at the bottom of the reaction flask. The deprotection was allowed to go for 30 minutes, then the supernatant was decanted. Dichloromethane was added to wash the solid, then it was decanted. This process was repeated a few times. No product was found in the dioxane and dichloromethane washes. The solid product was then purified on flash column chromatography, SiO2, gradient 2-15% methanol/chloroform to give 0.404 g of product, 63.5% yield over 2 steps. MS (ES) [M+H] calc'd for C20H19FN6O2, 395. found, 395.3. 1H NMR (400 MHz, METHANOL-d4) δ 2.60 (s, 3H), 3.09-3.19 (m, 1H), 3.29-3.34 (m, 1H), 3.91 (s, 3H), 5.45 (br. s., 1H), 6.82 (d, J=8.34 Hz, 1H), 7.16 (d, J=6.57 Hz, 1H), 7.19-7.30 (m, 2H), 7.55 (dd, J=8.59, 5.56 Hz, 1H), 7.79 (dd, J=8.34, 7.33 Hz, 1H).

reactant | (7R)-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-5-(tetrahydro-2H-pyran-2-yloxyamino)-7,8-dihydropyrido[4,3-d]pyrimidin-2-amine | 1.86 mmol, 0.891 g | FC1=CC(=C(C=C1)[C@H]1CC=2N=C(N=C(C2C(=N1)NOC1OCCCC1)C)N)C1=NC(=CC=C1)OC | C25H27FN6O3
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 7.45 mmol, 1.86 mL | O1CCOCC1 | C4H8O2
product | (R,Z)-2-amino-7-(4-fluoro-2(6-methoxypyridine-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-one oxime | 0.404 g, 63.5% yield | NC=1N=C(C/2=C(N1)C[C@@H](N\C2=N/O)C2=C(C=C(C=C2)F)C2=NC(=CC=C2)OC)C | C20H19FN6O2
